US06974822B2
Step (2): 3-[3-oxo-7-(3-phenyl-prop-1-ynyl)-2H-8-azaisoquinolin-2-ylmethyl]benzoic acid methyl ester
The coupling of 3-(7-bromo-3-oxo-2H-8-azaisoquinolin-2-ylmethyl)benzoic acid methyl ester (1.20 g, 3.22 mmol) with 3-phenyl-1-propyne (1.00 mL, 8.06 mmol) using triethylamine (0.92 mL, 6.60 mmol), CuI (0.044 g, 0.23 mmol), and Pd(Ph3P)4 (0.15 g, 0.13 mmol) in dimethylformamide is carried out as described in Example 1, Step (2). A portion of the resulting red oil is purified on the preparatory HPLC using 80:20 acetonitrile/water (0.1% TFA), evaporated to dryness, dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate solution, dried over MgSO4 and evaporated to dryness. Drying will afford the desired product.

reactant | 3-(7-bromo-3-oxo-2H-8-azaisoquinolin-2-ylmethyl)benzoic acid methyl ester | 3.22 mmol, 1.20 g | COC(C1=CC(=CC=C1)CN1C=C2N=C(C=CC2=CC1=O)Br)=O | C17H13BrN2O3
reactant | 3-phenyl-1-propyne | 8.06 mmol, 1.00 mL | C1(=CC=CC=C1)CC#C | C9H8
reactant | triethylamine | 6.60 mmol, 0.92 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | CuI | 0.23 mmol, 0.044 g | [Cu]I
catalyst | Pd(Ph3P)4 | 0.13 mmol, 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[3-oxo-7-(3-phenyl-prop-1-ynyl)-2H-8-azaisoquinolin-2-ylmethyl]benzoic acid methyl ester | COC(C1=CC(=CC=C1)CN1C=C2N=C(C=CC2=CC1=O)C#CCC1=CC=CC=C1)=O | C26H20N2O3
